US09388147B2
A solution of tert-butyl 4-((4-(5-(3-cyano-4-isopropoxyphenyl)-1,2,4-oxadiazol-3-yl)-2,3-dihydro-1H-inden-1-yl)amino)piperidine-1-carboxylate (15.7 mg, 0.03 mmol) in neat TFA (1 mL) was stirred for 30 min and concentrated to provide 12 mg (99%) of 2-isopropoxy-5-(3-(1-(piperidin-4-ylamino)-2,3-dihydro-1H-inden-4-yl)-1,2,4-oxadiazol-5-yl)benzonitrile. LCMS-ESI (m/z) calculated for C26H29N5O2: 443.5. found 444.2 [M+H]+, tR=5.31 min (Method 2).

reactant | tert-butyl 4-((4-(5-(3-cyano-4-isopropoxyphenyl)-1,2,4-oxadiazol-3-yl)-2,3-dihydro-1H-inden-1-yl)amino)piperidine-1-carboxylate | 0.03 mmol, 15.7 mg | C(#N)C=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C1=C2CCC(C2=CC=C1)NC1CCN(CC1)C(=O)OC(C)(C)C | C31H37N5O4
solvent | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-isopropoxy-5-(3-(1-(piperidin-4-ylamino)-2,3-dihydro-1H-inden-4-yl)-1,2,4-oxadiazol-5-yl)benzonitrile | 12 mg, 99% | C(C)(C)OC1=C(C#N)C=C(C=C1)C1=NC(=NO1)C1=C2CCC(C2=CC=C1)NC1CCNCC1 | C26H29N5O2
